US07297713B2
N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]cyclobutane-carboxamide
The title compound was prepared according to the general procedure for acylation of 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile using cyclobutane carbonyl chloride (60 μL, 0.55 mmol) to provide N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]cyclobutane carboxamide (0.048 g).

reactant | 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | NC1=CC=C(C=C1)C1=CC=C(N1C)C#N | C12H11N3
reactant | cyclobutane carbonyl chloride | 0.55 mmol, 60 μL | C1(CCC1)C(=O)Cl | C5H7ClO
product | N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]cyclobutane carboxamide | 0.048 g | C(#N)C1=CC=C(N1C)C1=CC=C(C=C1)NC(=O)C1CCC1 | C17H17N3O
